US07910600B2
methyl 3-(methylsulfonyl)-5-phenylpyrimido[4,5-c]quinoline-8-carboxylate (1.0 eq, 117 mg, 0.298 mmol) was mixed in a vial with cylopropylamine (3.0 eq, 62 ul, 0.89 mmol) in NMP (2 ml). The mixture was stirred at 60° C. for 50 minutes. Water was added and the resulting solid filtered. The material was suspended in AcOEt/hexanes and filtered to afford methyl 3-(cyclopropylamino)-5-phenylpyrimido[4,5-c]quinoline-8-carboxylate as a yellow solid (86 mg, 78% yield). LCMS (ES): >95% pure, m/z 371 [M+1]+.

reactant | methyl 3-(methylsulfonyl)-5-phenylpyrimido[4,5-c]quinoline-8-carboxylate | 0.298 mmol, 117 mg, 1.0 eq | CS(=O)(=O)C=1N=CC2=C(C(=NC=3C=C(C=CC23)C(=O)OC)C2=CC=CC=C2)N1 | C20H15N3O4S
reactant | cylopropylamine | 0.89 mmol, 62 ul, 3.0 eq | C1(CC1)N | C3H7N
reactant | Water | O | H2O
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | methyl 3-(cyclopropylamino)-5-phenylpyrimido[4,5-c]quinoline-8-carboxylate | 86 mg, 78% yield | C1(CC1)NC=1N=CC2=C(C(=NC=3C=C(C=CC23)C(=O)OC)C2=CC=CC=C2)N1 | C22H18N4O2
